US07365095B2
To a solution of 2′,6′-dichloro-5-fluorobiphenyl-2-ol (11.63 g, 45 mmol) in DMF (150 mL) was added allyl bromide (5.8 mL, 67.5 mmol) and potassium carbonate (18.6 g, 135 mmol) at room temperature. The resulting mixture was stirred at room temperature overnight and poured into water. The mixture was extracted with methylene chloride and washed with water. The solvent was removed under vacuum. Chromatography with 0–30% ethyl acetate in hexanes afforded 12.7 g (94%) of 2-allyloxy-2′,6′-dichloro-5-fluorobiphenyl as a light yellow oil. MS (EI) m/z 296 (M+).

reactant | 2′,6′-dichloro-5-fluorobiphenyl-2-ol | 45 mmol, 11.63 g | ClC1=C(C(=CC=C1)Cl)C=1C(=CC=C(C1)F)O | C12H7Cl2FO
reactant | allyl bromide | 67.5 mmol, 5.8 mL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 135 mmol, 18.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 2-allyloxy-2′,6′-dichloro-5-fluorobiphenyl | 12.7 g, 94% | C(C=C)OC1=C(C=C(C=C1)F)C1=C(C=CC=C1Cl)Cl | C15H11Cl2FO
